US04761403
1-Trimethylsiloxyindene.
Trimethylsilyl chloride (5.7 g, 52.3 mmole), triethylamine (11.71 g, 116 mmole), and 1-indanone (6.22 g, 47.1 mmole) were dissolved in dimethyl formamide (25 mL) and refluxed for 17 hours. After cooling, the mixture was diluted with pentane (50 mL) and washed four times with saturated sodium bicarbonate. After backwashing the aqueous phase with pentane the organic layers were combined, washed with cold 2N HCl and cold saturated sodium bicarbonate, then dried over MgSO4. The solvent was evaporated and the residue distilled (bp 123°-125° C.).

reactant | Trimethylsilyl chloride | 52.3 mmole, 5.7 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 116 mmole, 11.71 g | C(C)N(CC)CC | C6H15N
reactant | 1-indanone | 47.1 mmole, 6.22 g | C1(CCC2=CC=CC=C12)=O | C9H8O
solvent | dimethyl formamide | 25 mL | CN(C=O)C | C3H7NO
solvent | pentane | 50 mL | CCCCC | C5H12
product | 1-Trimethylsiloxyindene | C[Si](OC1C=CC2=CC=CC=C12)(C)C | C12H16OSi
